US05025086
Hydrogenation of 1,5-bis-(4'-carbomethoxyphenyl)-3-pentanol
To a stainless steel autoclave was added 143.9 g (0.404 moles) 1,5.bis-(4,-carbomethoxyphenyl)-3-pentanol, 14.4 grams of 0.5% Pd on alumina, and 1,150 mL of cyclohexane. The autoclave was pressurized to 500 psi with hydrogen and then heated to 225° C. Upon reaching temperature, the pressure was adjusted to 1500 psi and these conditions were maintained for 6 hrs. The reaction was then cooled and vented. The product is soluble in the cyclohexane and is separated from the catalyst by filtration. The product is isolated by simple solvent removal in vacuo to give 139.6 grams of product (0.379 moles, 94%) consisting of all three diastereomeric cyclohexyl isomers of 1,5-bis-(4'-carbomethoxycyclohexyl)-3-pentanol. 300 MHz NMR (CDCl3) δ=0.93 (m,2H), 1.10-1.65 (m, 20H), 1.82 (d,1H), 1.96 (d,4H), 2.23 (m,1H), 2.52 (m,1H), 3.53 (s(br),1H), 3.67 (s,3H), 3.69 (s,3H). IR (neat): 1040, 1200, 1740, 3500 cm-1. GC.MS: (a) electron impact 50 eV: all three isomers with identical mass spectra: 368(<1%), 350, 337, 318, 290, 199, 170, 167, 138, 121, 108, 95, 94, 87, 81, 67. (NH3 chemical ionization): three peaks with M+=368.

reactant | 1,5-bis-(4'-carbomethoxycyclohexyl)-3-pentanol | C(=O)(OC)C1CCC(CC1)CCC(CCC1CCC(CC1)C(=O)OC)O | C21H36O5
reactant | NH3 | N | H3N
product | 1,5-bis-(4'-carbomethoxyphenyl)-3-pentanol | C(=O)(OC)C1=CC=C(C=C1)CCC(CCC1=CC=C(C=C1)C(=O)OC)O | C21H24O5
